US09382228B2
A solution of methyl 2-ethoxy-2-methylpropanoate (1.6 g, 10.95 mmol) in MeOH (14 mL) was treated drop-wise with a solution of KOH (1.228 g, 21.89 mmol) in water (7 mL) and stirred at RT overnight. The mixture was treated with water, washed with Et2O (2×) and the aqueous layer was acidified to pH 2 with 2M HCl. The mixture was extracted with EtOAc (4×) and the combined organics were dried over MgSO4 and concentrated to dryness to afford 2-ethoxy-2-methylpropanoic acid (1.1 g, 76%) as a colorless oil. 1H NMR (400 MHz, DMSO-d6): δ 12.42 (s, 1H), 3.34 (q, J=7.0 Hz, 2H), 1.28 (s, 6H), 1.06 (t, J=7.0 Hz, 3H).

reactant | methyl 2-ethoxy-2-methylpropanoate | 10.95 mmol, 1.6 g | C(C)OC(C(=O)OC)(C)C | C7H14O3
reactant | KOH | 21.89 mmol, 1.228 g | [OH-].[K+]
solvent | MeOH | 14 mL | CO | CH4O
solvent | water | 7 mL | O | H2O
product | 2-ethoxy-2-methylpropanoic acid | 1.1 g, 76% | C(C)OC(C(=O)O)(C)C | C6H12O3
